datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:7][C:11]([H:12])([H:13])[H:14],23.7442
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])[H:10])([H:8])[H:9],24.7274
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([S:10][H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])([S:10][H:15])[H:14],75.3538
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[O:6])([H:7])([H:8])[H:9]>>[C:0]([C:1]=[O:2])([H:7])([H:8])[H:9].[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])=[O:6],46.35872
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[C:8](=[S:9])[H:16])([H:10])([H:11])[H:12]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:10])([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:8](=[S:9])[H:16],28.4512
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])([H:6])([H:7])[H:8],23.3467
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]=[S:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:14])=[S:13],70.7096
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])[H:14])[H:12])[H:11])([H:10])[H:13])([H:7])([H:8])[H:9],418.4
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]2([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:28])[H:6].[C:11]1([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]2([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2[H:29],90.3744
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19],26.7776
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:3])[H:4],46.1495
[C:0]([H:1])([H:2])[H:3].[N:4]([O:5][H:7])[H:6]>>[C:0]([H:1])([H:2])([H:3])[H:7].[N:4](=[O:5])[H:6],8.7864
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][O:23][H:24],4.075216
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([S:10][H:18])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[S:3])[H:14])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[S:10][H:18])([H:11])([H:12])[H:13],51.4632
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[S:3])([H:4])([H:5])[H:6].[O:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:11])[O:10][H:12])([H:4])([H:5])[H:6],101.713
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:7],14.1419
